US07968538B2
N-(1-(3,5-Dichlorophenyl)ethyl)-2-nitro-5-(piperazin-1-yl)benzeneamine
N-(1-(3,5-dichlorophenyl)ethyl)-5-fluoro-2-nitrobenzenamine (1.62 mmol), piperazine (8.1 mmol), N,N-diisopropylethylamine (0.58 mmol) were stirred at 60° C. in dry acetonitrile (20 mL) for 3 days. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 20% ethyl acetate in hexanes to afford the title compound (19% yield). 1H NMR (400 MHz, CDCl3): δ 9.31 (d, 1H), 7.63 (d, 1H), 7.25 (s, 1H), 7.22 (s, 2H), 6.18 (d, 1H), 5.53 (s, 1H), 4.48 (m, 1H), 3.48 (m, 4H), 3.25 (m, 4H), 1.60 (d, 3H), 1.47 (s, 9H); MS (ESI) m/z: Calculated for C18H20O2N4O2: 395.28; Observed: 396.3 (M++1).

reactant | N-(1-(3,5-dichlorophenyl)ethyl)-5-fluoro-2-nitrobenzenamine | 1.62 mmol | ClC=1C=C(C=C(C1)Cl)C(C)NC1=C(C=CC(=C1)F)[N+](=O)[O-] | C14H11Cl2FN2O2
reactant | piperazine | 8.1 mmol | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 0.58 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-(1-(3,5-Dichlorophenyl)ethyl)-2-nitro-5-(piperazin-1-yl)benzeneamine | 19% yield | ClC=1C=C(C=C(C1)Cl)C(C)NC1=C(C=CC(=C1)N1CCNCC1)[N+](=O)[O-] | C18H20Cl2N4O2
